US03960911
1-Benzoyl-2-ferrocenylcyclopentene
Ferrocenoylvaleryl chloride (prepared as above and assumed to be 0.01 mole) was diluted with methylene chloride (10 mls.) and benzene (20 mls.) and the solution was cooled to 0°-5°. Aluminium chloride (2.6g; 0.02 mole) was then added with stirring over 30 minutes. After further stirring at room temperature for 2 hours, ice was added to the reaction mixture. The organic layer was then separated and washed successively with water, aqueous sodium bicarbonate solution, and water, before being dried over sodium sulphate. Evaporation under reduced pressure produced a brown oil from which chromatography on silica gel with toluene/ethyl acetate provided a pure sample of the required compound (0.32 g; 9% yield) mp 135°-7°.

reactant | Ferrocenoylvaleryl chloride | 0.01 mole | [C-]1(C=CC=C1)C(=O)CCCCC(=O)Cl.[CH-]1C=CC=C1.[Fe+2]
reactant | Aluminium chloride | 0.02 mole, 2.6g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methylene chloride | 10 mls | C(Cl)Cl | CH2Cl2
solvent | benzene | 20 mls | C1=CC=CC=C1 | C6H6
product | 1-Benzoyl-2-ferrocenylcyclopentene | 0.32 g, 9% yield | C(C1=CC=CC=C1)(=O)C1=C(CCC1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C17H15O.C5H5.Fe/c18-17(14-9-2-1-3-10-14)16-12-6-11-15(16)13-7-4-5-8-13;1-2-4-5-3-1;/h1-5,7-10H,6,11-12H2;1-5H;/q2*-1;+2
